US04001284
N-(2-methoxybenzyl)-4-phenoxy-5-sulfamoyl-anthranilic acid
43 g of 2,4-diphenoxy-5-sulfamoyl-benzoic acid (0.1 mol) prepared according to Example 1 (c) were stirred with 80 ml of 2-methoxybenzylamine for 3.5 hours at 140° C. The almost colorless reaction solution which, had been cooled to about 80° C, was then diluted with 150 ml of ethanol, and the solution was introduced while stirring into 1.0 l of 1N hydrochloric acid at room temperature. The reaction product, which had precipitated in crystals, was suction-filtered and washed with water and then boiled up for a short time with 0.3 l of ethanol, during which the major part of it remained undissolved. After cooling to room temperature, it was suction-filtered and washed with ethanol and finally dried on a steam bath.

reactant | 2,4-diphenoxy-5-sulfamoyl-benzoic acid | 0.1 mol, 43 g | O(C1=CC=CC=C1)C1=C(C(=O)O)C=C(C(=C1)OC1=CC=CC=C1)S(N)(=O)=O | C19H15NO6S
reactant | 2-methoxybenzylamine | 80 ml | COC1=C(CN)C=CC=C1 | C8H11NO
reactant | hydrochloric acid | 1N, 1.0 l | Cl | ClH
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | N-(2-methoxybenzyl)-4-phenoxy-5-sulfamoyl-anthranilic acid | COC1=C(CNC=2C(C(=O)O)=CC(=C(C2)OC2=CC=CC=C2)S(N)(=O)=O)C=CC=C1 | C21H20N2O6S
